US09260397B2
1-(4-ethylcarboxyphenyl)-3-heptyl imidazolium bromide
According to the general synthesis procedure, 4.60 mmol (1.00 g) 1-(4-ethylcarboxyphenyl)imidazole and 5.50 mmol (0.990 g, 0.88 ml) 1-bromoheptane are dissolved in 5 ml THF and heated for 70 h to 90° C.

reactant | 1-(4-ethylcarboxyphenyl)imidazole | 4.60 mmol, 1.00 g | C(C)C1=CC(=C(C=C1)N1C=NC=C1)C(=O)O | C12H12N2O2
reactant | 1-bromoheptane | 5.50 mmol, 0.88 ml, 0.990 g | BrCCCCCCC | C7H15Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(4-ethylcarboxyphenyl)-3-heptyl imidazolium bromide | [Br-].C(C)C1=CC(=C(C=C1)[N+]1=CN(C=C1)CCCCCCC)C(=O)O | InChI=1S/C19H26N2O2.BrH/c1-3-5-6-7-8-11-20-12-13-21(15-20)18-10-9-16(4-2)14-17(18)19(22)23;/h9-10,12-15H,3-8,11H2,1-2H3;1H
